Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
amoxicillin / Bactrim / Penicillins
 
Attending: ___
 
Chief Complaint:
Motor Vehicle Accident, Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old female, unrestrained driver in a ___, 
where she hit a tree with roll over of the car into wooded area. 
She was found in the vehicle, with positive alcohol screen, 
spleen laceration, and left knee laceration/effusion on arrival 
to the ED. In the ED, she noted that her left eye, left upper 
abdominal quadrant, left knee, and left chest all hurt. 
 
Past Medical History:
PMH: Anxiety, alcoholism
No past surgical history
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Vitals: T 99.1, BP 130/90, HR 99, RR 18, O2 99% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, tender in LUQ, no rebound or guarding,
normoactive bowel sounds, no palpable masses
BACK: non tender to spinous processes. tender on Left flank to 
percussion
Ext: No ___ edema, ___ warm and well perfused, abrasions to 
anterior thighs bilaterally, left anterior wound laceration 
sutured up. 

 
Pertinent Results:
___ 08:21AM BLOOD WBC-6.3 RBC-3.86* Hgb-12.7 Hct-36.6 
MCV-95 MCH-32.9* MCHC-34.7 RDW-11.2 RDWSD-38.7 Plt ___
___ 06:43AM BLOOD Neuts-76.2* Lymphs-12.7* Monos-10.3 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-7.97* AbsLymp-1.33 
AbsMono-1.08* AbsEos-0.00* AbsBaso-0.04
___ 06:43AM BLOOD ___ PTT-27.7 ___
___ 08:21AM BLOOD Glucose-106* UreaN-5* Creat-0.6 Na-141 
K-4.5 Cl-99 HCO3-32 AnGap-10
___ 08:21AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.8
___ 06:43AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ was admitted to the Acute Care Surgery Service on ___ 
after a MVC that resulted in a splenic laceration and left leg 
laceration. Her leg laceration was sutured in the ED and she was 
admitted for further monitoring of her splenic laceration.  On 
___, she experiences left shoulder pain in addition to LUQ, both 
of which were felt to be secondary to her splenic laceration and 
diaphragmatic irritation. A tertiary survery was performed 
without any other injuries identified. She was tolerating a 
regular diet and ambulating without issue.
 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acamprosate 333 mg PO TID 
2. OXcarbazepine 150 mg PO BID 
3. OXcarbazepine 300 mg PO QHS 
4. CloNIDine 0.1 mg PO QHS 
5. HydrOXYzine 25 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  OxyCODONE (Immediate Release) 5 mg PO Q3H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*35 Tablet Refills:*0 
3.  Acamprosate 333 mg PO TID  
4.  CloNIDine 0.1 mg PO QHS  
5.  HydrOXYzine 25 mg PO QHS  
6.  OXcarbazepine 150 mg PO BID  
7.  OXcarbazepine 300 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Splenic laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the ___ after a car accident caused 
Splenic laceration and a left knee laceration. Your splenic 
laceration was managed without any interventions and your knee 
was sutured. Your pain control improved and you were discharged 
home after you were tolerating a regular diet, ambulating 
without issue, and your pain was well controlled.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___